US07205306B2
3-(5-Bromo-7-methoxy-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-5-bromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 556 using 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 5-bromo-7-methoxy-3,4-dihydro-2H-1,4-benzoxazine as the starting materials to give an oil. 1H NMR (300 MHz, CDCl3): δ 7.14 (s, 1H), 6.75 (d, J=2.5 Hz, 1H), 6.46 (d, J=2.5 Hz, 1H), 5.08–4.86 (m, 1H), 4.50–3.88 (m, 4H), 3.77 (s, 3H), 3.70–3.52 (m, 2H), 3.36 (s, 3H), 1.92–1.70 (m, 2H), 0.93 (t, J=7.5 Hz, 3H); HRMS (ESI) m/z 501.9992 [(M+H)+, calcd for C18H22N3O4Br2 501.9977].

reactant | 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1C(N(C=C(N1)Br)[C@H](CC)COC)=O | C9H12Br2N2O2
reactant | 5-bromo-7-methoxy-3,4-dihydro-2H-1,4-benzoxazine | BrC1=CC(=CC2=C1NCCO2)OC | C9H10BrNO2
product | 3-(5-Bromo-7-methoxy-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-5-bromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC1=CC(=CC2=C1N(CCO2)C=2C(N(C=C(N2)Br)[C@H](CC)COC)=O)OC | C18H21Br2N3O4
